US07897766B2
2,3-Dihydrobenzo[1,4]dioxine-6-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 1,4-benzodioxan-6-carboxylic acid (Maybridge) according to methods A and C; yield 49 mg, 0.13 mmol (42%): 1H NMR (300 MHz, methanol-d4) δ 2.08-2.29 (m, 5H), 2.49 (s, 2H), 3.50 (d, J=13 Hz, 2H), 3.56 (s, 2H), 3.85 (d, J=13 Hz, 2H), 4.28 (s, 1H), 7.38-7.50 (m, 2H), 7.87-7.96 (m, 2H), 8.14 (d, J=1 Hz, 1H); MS (DCI/NH3) m/z 315 (M+H)+; Anal. C18H22N2O3.HCl.0.25NH4OH: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 1,4-benzodioxan-6-carboxylic acid | O1CCOC2=C1C=CC(=C2)C(=O)O | C9H8O4
reactant | NH3 | N | H3N
product | 2,3-Dihydrobenzo[1,4]dioxine-6-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC3=C(OCCO3)C=C2 | InChI=1S/C18H22N2O3.ClH/c21-18(12-1-2-15-16(7-12)23-4-3-22-15)19-17-13-5-11-6-14(17)10-20(8-11)9-13;/h1-2,7,11,13-14,17H,3-6,8-10H2,(H,19,21);1H/t11?,13?,14?,17-;
